US08377874B2
Step 4: 1-t-Butyl 2-methyl (2S,4S)-4-{[(4-bromophenyl)sulfonyl]oxy}pyrrolidine-1,2-dicarboxylate
To a solution of 1-t-butyl 2-methyl (2S,4S)-4-hydroxypyrrolidine-1,2-dicarboxylate (2.15 g, 8.76 mmol) and DABCO (1.57 g, 14.0 mmol) in PhMe (10 mL) at RT was added a solution of brosyl chloride (3.14 g, 12.3 mmol) in PhMe (5 mL). A white precipitate formed, the reaction mixture was stirred for 20 minutes and filtered. The filtrate was partitioned between EtOAc and saturated aqueous NaHCO3; the layers separated; and the organic phase washed with 1 M HCl, water and brine, dried over Na2SO4, filtered and concentrated to afford the title compound as an oil (4.0 g), which was used without further purification. LRMS (M+Na)+ Calcd.: 488; found 488.

reactant | 1-t-butyl 2-methyl (2S,4S)-4-hydroxypyrrolidine-1,2-dicarboxylate | 8.76 mmol, 2.15 g | O[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C11H19NO5
reactant | DABCO | 14.0 mmol, 1.57 g | C1CN2CCN1CC2 | C6H12N2
reactant | brosyl chloride | 12.3 mmol, 3.14 g | S(=O)(=O)(C1=CC=C(Br)C=C1)Cl | C6H4BrClO2S
solvent | PhMe | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | PhMe | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-t-Butyl 2-methyl (2S,4S)-4-{[(4-bromophenyl)sulfonyl]oxy}pyrrolidine-1,2-dicarboxylate | 4.0 g | BrC1=CC=C(C=C1)S(=O)(=O)O[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C17H22BrNO7S
